US06667316B1
A mixture of 4-cyano-2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]isoindoline-1,3-dione (0.5 g, 1.17 mmol) and 10%Pd/C (0.15 g) in 4 N hydrochloric acid (1 mL) and methanol (40 mL) was hydrogenated in Parr Shaker apparatus under 50 psi of hydrogen overnight. To the resulting slurry was added water (2 mL) to dissolve the product. The reaction mixture was then filtered through Celite and the filtrate was concentrated in vacuo. The residue was slurried in ethyl acetate (10 mL) to afford 0.52 g of the crude product. The product was reslurried in hot ethanol (15 mL) to afford 4-(aminomethyl)-2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]isoindoline-1,3-dione hydrochloride (0.44 g, 80% yield): mp 237-239° C.; 1H NMR (DMSO-d6) δ8.79 (s, 3H, Ar), 8.04-7.89 (m, 3H, Ar), 7.11-6.91 (m, 3H, Ar), 5.83-5.77 (dd, J=4.2, 10.1 Hz, 1H, NCH), 4.49-4.47 (m, 2H, CH2), 4:41-4.31 (m, 1H, CHH), 4.21-4.13 (m, 1H, CHH), 4.04 (q, J=6.8 Hz, 2H, CH2), 3.73 (s, 3H, CH3), 3.64 (s, 3H, CH3), 1.32 (t, J=6.8 Hz, 3H, CH3); 13C NMR (DMSO-d6) δ167.48, 166.93, 148.95, 147.87, 135.39, 134.71, 132.82, 131.32, 129.50, 128.30, 123.34, 119.89, 112.55, 111.79, 63.87, 55.52, 53.07, 47.46, 41.08, 36.84, 14.66; Anal. Calcd for C21H25N2O6SCl: C, 53.79; H, 5.37; N, 5.97; S, 6.84; Cl, 7.56. Found: C, 53.49, H, 5.47; N, 5.75; S, 6.61; Cl, 7.51.

reactant | 4-cyano-2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]isoindoline-1,3-dione | 1.17 mmol, 0.5 g | C(#N)C1=C2C(N(C(C2=CC=C1)=O)C(CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC)=O | C21H20N2O6S
reactant | hydrogen | [H][H] | H2
reactant | water | 2 mL | O | H2O
reactant | hydrochloric acid | 4 N, 1 mL | Cl | ClH
solvent | methanol | 40 mL | CO | CH4O
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.15 g | [Pd] | Pd
product | 4-(aminomethyl)-2-[1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]isoindoline-1,3-dione hydrochloride | 0.44 g, 80% yield | Cl.NCC1=C2C(N(C(C2=CC=C1)=O)C(CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC)=O | InChI=1S/C21H24N2O6S.ClH/c1-4-29-18-10-13(8-9-17(18)28-2)16(12-30(3,26)27)23-20(24)15-7-5-6-14(11-22)19(15)21(23)25;/h5-10,16H,4,11-12,22H2,1-3H3;1H
